US04661626
27.3 mg (0.1 mmole) of sodium perrhenate and 1.04 grams (5.25 mmoles) of diphosgene were present at 80° C. in 1 ml of ethyl acetate saturated with hydrogen chloride. Then there were added within 20 minutes with vigorous stirring 1.71 grams (10 mmoles) of 2-azidohexanoic acid methyl ester dissolved in 5 ml of ethyl acetate. The reaction was ended after 1 hour uniform development of gas. The reaction mixture was then filtered with suction over a vacuum frit and the ethyl acetate distilled off under reduced pressure. The crude product thus obtained was distilled in a high vacuum (0.0013 mbar) at 50° to 55° C. apparatus temperature in a bulbed tube. There resulted 1.35 grams (79.8% of theory) of analytically pure 2-isocyanato-2-hexenoic acid methyl ester as a colorless, readily mobile liquid:

reactant | diphosgene | 5.25 mmoles, 1.04 grams | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | hydrogen chloride | Cl | ClH
reactant | 2-azidohexanoic acid methyl ester | 10 mmoles, 1.71 grams | COC(C(CCCC)N=[N+]=[N-])=O | C7H13N3O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
catalyst | sodium perrhenate | 0.1 mmole, 27.3 mg | [Re](=O)(=O)(=O)[O-].[Na+]
product | 2-isocyanato-2-hexenoic acid methyl ester | COC(C(=CCCC)N=C=O)=O | C8H11NO3
